US04241058
65 g of 3-(p-tert.butyl-phenyl)-1,2-dimethyl-allyl alcohol are dissolved in 650 ml of alcohol and treated with 6 g of 5% palladium/carbon while gassing with nitrogen. The mixture is hydrogenated until the hydrogen uptake has been completed. Subsequently, the catalyst is removed by filtration and the alcohol filtrate is evaporated. By distillation there is obtained pure 3-(p-tert.butyl-phenyl)-1,2-dimethyl-propanol of boiling point 110° C./0.03 Torr.

reactant | 3-(p-tert.butyl-phenyl)-1,2-dimethyl-allyl alcohol | 65 g | C(C)(C)(C)C1=CC=C(C=C1)C=C(C(C)O)C | C15H22O
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 6 g | [Pd] | Pd
product | 3-(p-tert.butyl-phenyl)-1,2-dimethyl-propanol | C(C)(C)(C)C1=CC=C(C=C1)CC(C(O)C)C | C15H24O
